US07939526B2
3-Chloroperoxybenzoic acid (0.62 g of ˜77%, 2.8 mmol) was added in portions over a period of 5 minutes to a solution of 1-{2-[3-(methylthio)propoxy]ethyl}-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine (1.0 g, 2.8 mmol) in chloroform (14 mL). After 20 minutes analysis by TLC showed that all of the starting material had been consumed. The reaction mixture was partitioned between dichloromethane (100 mL) and saturated aqueous sodium carbonate (50 mL). The organic layer was washed sequentially with saturated aqueous sodium carbonate (50 mL) and brine (50 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to provide a white foam. This material was purified by column chromatography (silica gel eluting with 95/5 dichloromethane/methanol) followed by recrystallization from ethyl acetate (60 mL) to provide 0.44 g of 1-{2-[3-(methylsulfinyl)propoxy]ethyl}-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine as crystalline plates, mp 148-151° C. 1H NMR (300 MHz, DMSO-d6) δ 8.07 (d, J=8.1 Hz, 1H), 7.60 (d, J=8.1 Hz, 1H), 7.40 (t, J=8.1 Hz, 1H), 7.22 (t, J=8.1 Hz, 1H), 6.43 (bs, 2H), 4.72 (t, J=5.0 Hz, 2H), 3.84 (t, J=5.0 Hz, 2H), 3.40 (t, J=6.2 Hz, 2H), 2.92 (t, J=7.6 Hz, 2H), 2.46 (m, 2H), 2.39 (s, 3H) 1.86 (sextet, J=7.6 Hz, 2H) 1.71 pentet, J=7.6 Hz, 2H) 1.04 (t, J=7.6 Hz, 3H); MS (APCI) m/z 375 (M+H)+; Anal. Cacld for C19H26N4O2S: C, 60.94; H, 7.00: N, 14.96. Found: C, 60.73; H, 6.82; N, 14.85.

reactant | 3-Chloroperoxybenzoic acid | 2.8 mmol, 0.62 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 1-{2-[3-(methylthio)propoxy]ethyl}-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 2.8 mmol, 1.0 g | CSCCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C19H26N4OS
solvent | chloroform | 14 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-{2-[3-(methylsulfinyl)propoxy]ethyl}-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.44 g | CS(=O)CCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C19H26N4O2S
